US03951875
86.25 g Of small pieces of sodium are added to 60 g of 2-carbethoxy-methyl-2-hydroxy-decalin and 900 ml of anhydrous ethyl alcohol. A vigorous reaction sets in which causes the reaction medium to reflux. Reflux is maintained for 1 hour. The mass is cooled, 1000 ml of water added, the alcohol distilled off and the residue is taken up in a little warm water. After cooling the mass is extracted three times with 250 ml of diethyl ether. The ethereal solutions are washed to neutrality and distilled; there are thus obtained 40 g of crude product which are rectified under 0.5 mm. This rectification gives 22 g of 2-hydroxyethyl-2-hydroxy-decalin (b.p.0.5 = 138°-140°C), which represents a conversion of about 42%.

reactant | sodium | [Na] | Na
reactant | 2-carbethoxy-methyl-2-hydroxy-decalin | 60 g | C(=O)(OCC)C1(C(C2CCCCC2CC1)C)O | C14H24O3
reactant | ethyl alcohol | 900 ml | C(C)O | C2H6O
solvent | water | 1000 ml | O | H2O
product | 2-hydroxyethyl-2-hydroxy-decalin | 22 g | OCCC1C(CCC2CCCCC12)O | C12H22O2
